US05688946
A mixture of 100 mg (0.16 mmol) of (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide, 46 mg (0.24 mmol) of ethyl 2-(bromomethyl)acrylate and 0.044 ml (0.32 mmol) of triethylamine in 3 ml of methylene chloride is stirred at room temperature under argon for 24 hours. Subsequently, the reaction mixture is evaporated and, for purification, the residue is chromatographed on 30 g of silica gel using a 14:1:0.1 mixture of methylene chloride, methanol and ammonia as the eluent. There are obtained mg of ethyl 4-[(S)-2-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-2-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]ethyl]-α-methyleneimidazole-1-propionate as an amorphous solid; MS: 743 (M+H)+.

reactant | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide | 0.16 mmol, 100 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C33H50N4O6S
reactant | ethyl 2-(bromomethyl)acrylate | 0.24 mmol, 46 mg | BrCC(C(=O)OCC)=C | C6H9BrO2
reactant | triethylamine | 0.32 mmol, 0.044 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-[(S)-2-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-2-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]ethyl]-α-methyleneimidazole-1-propionate | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@@H](CC=1N=CN(C1)CC(C(=O)OCC)=C)C(N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)=O)CC1=CC=CC=C1 | C39H58N4O8S
